US06498169B1
Synthesis of (3S)-3-[N-Methyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]pirrolidine Tertrahydrochloride
(3S)-3-methylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]pyrrolidine (104 mg) and 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (85 mg) was condensed in the same manner as described in Example 2. Yellow syrup obtained was converted to a tetrahydrochloride by the usual method giving the title compound as yellow powder.

reactant | (3S)-3-methylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]pyrrolidine | 104 mg | CN[C@@H]1CN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C20H27N3O3
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 85 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | (3S)-3-[N-Methyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]pirrolidine | CN(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)[C@@H]1CN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C35H42N4O6
